US07166598B2
tert-Butyldimethylsilyl chloride (2.34 g) was added to a solution of 4-[[(2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-piperazin-2-yl]methyl]-2-hydroxybenzoic acid methyl ester (2.56 g), 4-(dimethylamino)pyridine (126 mg) and triethylamine (2.51 ml) in dichloromethane (50 ml) at room temperature. After stirring at room temperature for 15 hours, additional triethylamine (2.51 ml) and tert-butyldimethylsilyl chloride (2.34 g) were added and the whole mixture was stirred for further 1 day. Water (200 ml) was added to the mixture, and the resulting mixture was extracted with dichloromethane. The organic extracts were washed with water and brine successively, dried over magnesium sulfate, and evaporated under reduced pressure to give crude oil. The oil was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol to give 4-[[(2R)-1-[3,5-bis(trifluoromethyl)benzoyl]piperazin-2-yl]-methyl]-2-(tert-butyldimethylsilyloxy)benzoic acid methyl ester (1.72 g).

reactant | tert-Butyldimethylsilyl chloride | 2.34 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 4-[[(2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-piperazin-2-yl]methyl]-2-hydroxybenzoic acid methyl ester | 2.56 g | COC(C1=C(C=C(C=C1)C[C@H]1N(CCNC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)O)=O | C22H20F6N2O4
reactant | triethylamine | 2.51 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 2.51 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 2.34 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Water | 200 ml | O | H2O
catalyst | 4-(dimethylamino)pyridine | 126 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[[(2R)-1-[3,5-bis(trifluoromethyl)benzoyl]piperazin-2-yl]-methyl]-2-(tert-butyldimethylsilyloxy)benzoic acid methyl ester | 1.72 g | COC(C1=C(C=C(C=C1)C[C@H]1N(CCNC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)O[Si](C)(C)C(C)(C)C)=O | C28H34F6N2O4Si
